Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematuria and clot retention. 
 
Major Surgical or Invasive Procedure:
Cystoscopy, evacuation of clot and fulguration of prostate bed.

 
History of Present Illness:
___ male with history of recent transurethral resection 
of the prostate in an outside hospital who has had two prior 
episodes of gross operative bleeding who presented to the 
Emergency Department overnight with clot retention and 
ultrasound showing organized clot in the bladder.  

 
Past Medical History:
See anesthesia record/OMR notes.
 
Social History:
___
Family History:
See anesthesia record/OMR notes.
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
IUC removed. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 07:10AM BLOOD WBC-9.8 RBC-2.57* Hgb-7.9* Hct-23.9* 
MCV-93 MCH-30.7 MCHC-33.1 RDW-14.1 RDWSD-47.7* Plt ___
___ 08:40AM BLOOD Hct-30.9*
___ 04:05AM BLOOD WBC-18.2* RBC-3.41* Hgb-10.5* Hct-32.1* 
MCV-94 MCH-30.8 MCHC-32.7 RDW-13.6 RDWSD-46.5* Plt ___

___ 04:05AM BLOOD Neuts-81.0* Lymphs-12.1* Monos-5.3 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-14.72* AbsLymp-2.19 
AbsMono-0.97* AbsEos-0.03* AbsBaso-0.08

___ 07:10AM BLOOD Glucose-94 UreaN-19 Creat-1.1 Na-141 
K-4.3 Cl-108 HCO3-20* AnGap-13
___ 04:05AM BLOOD Glucose-251* UreaN-27* Creat-1.6* Na-140 
K-4.1 Cl-104 HCO3-13* AnGap-22*
 
Brief Hospital Course:
Mr. ___ was admitted to urology with hematuria and clot 
retention and underwent cystoscopy, evacuation of clot and 
fulguration of prostate bed. No concerning intraoperative events 
occurred; please see dictated operative note for details. He 
patient received ___ antibiotic prophylaxis. 
Patient's postoperative course was uncomplicated. He received 
intravenous antibiotics and
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and his Foley was removed after active voiding 
trial and post void residuals were checked. His urine was clear 
yellow and without clots. He remained a-febrile throughout his 
hospital stay.  At discharge, the patient's pain well controlled 
with oral pain medications, tolerating regular diet, ambulating 
without assistance, and voiding without difficulty. He is given 
pyridium and oral pain medications on discharge and explicit 
instructions to follow up in clinic. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO 5X/D ___ flare 
2. Finasteride 5 mg PO DAILY 
3. Tamsulosin 0.4 mg PO DAILY 
4. Losartan Potassium 50 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain-Mild/Fever >100   
2.  Bacitracin Ointment 1 Appl TP QID  
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ONE capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Phenazopyridine 100 mg PO Q8H:PRN dysuria/urgency Duration: 
3 Days 
RX *phenazopyridine 100 mg ONE tablet(s) by mouth Q8hrs Disp #*9 
Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS  
6.  Acyclovir 400 mg PO 5X/D ___ flare  
7.  Finasteride 5 mg PO DAILY  
8.  Losartan Potassium 50 mg PO QHS  
9.  Tamsulosin 0.4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematuria, gross
retention, clot urinary

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•-an ointment like bacitracin/Neosporin or "triple antibiotic" 
ointment is recommended for comfort at urethral meatus where the 
foley catheter inserts. Apply the ointment for comfort ___ x 
daily if needed.

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  
 
Followup Instructions:
___